US07259183B2
Preparation of [4-(1-ethylcyclopropyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 4-(1-ethylcyclopropyl)-benzaldehyde (124 mg, 0.71 mmol), 2-(3-trifluoromethylphenyl)-ethylamine (135 mg, 0.71 mmol) and sodium borohydride (40 mg, 1.07 mmol). The desired product was isolated without further purification as a colorless oil. MS (ISP) 348.5 (M+H)+.

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 4-(1-ethylcyclopropyl)-benzaldehyde | 0.71 mmol, 124 mg | C(C)C1(CC1)C1=CC=C(C=O)C=C1 | C12H14O
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 0.71 mmol, 135 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 1.07 mmol, 40 mg | [BH4-].[Na+]
product | [4-(1-ethylcyclopropyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine | C(C)C1(CC1)C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C21H24F3N
